US06177459B1
At 20 to 30° C., 2.6 g (0.01 mol) of 2-(2-methylphenoxymethyl)benzoyl chloride (EP-A 493 711, page 22) are added dropwise to a solution of 1.8 g (0.02 mol) of morpholine in 40 ml of tert-butyl methyl ether. The mixture is admixed with water and the organic phase is separated off, dried over sodium sulphate and concentrated under reduced pressure. The residue is recrystallized from 5 ml of methanol. 1.6 g (51.4% of theory) of N-[2-(2-methylphenoxymethyl)-benzoyl]-morpholine are obtained.

reactant | 2-(2-methylphenoxymethyl)benzoyl chloride | 0.01 mol, 2.6 g | CC1=C(OCC2=C(C(=O)Cl)C=CC=C2)C=CC=C1 | C15H13ClO2
reactant | morpholine | 0.02 mol, 1.8 g | N1CCOCC1 | C4H9NO
reactant | water | O | H2O
solvent | tert-butyl methyl ether | 40 ml | COC(C)(C)C | C5H12O
product | N-[2-(2-methylphenoxymethyl)-benzoyl]-morpholine | 1.6 g, 51.4% | CC1=C(OCC2=C(C(=O)N3CCOCC3)C=CC=C2)C=CC=C1 | C19H21NO3
